US07807690B2
(3f) {2-[4-Bromo-3-(t-butoxycarbonylaminomethyl)phenylimino]-2-[3-(2-dimethylaminoethoxy)-5-ethyl-2-fluorophenyl]-1-methylsulfanylethylidene}carbamic Acid Methyl Ester
To a mixture of {2-[4-bromo-3-(t-butoxycarbonylaminomethyl)phenylimino]-2-(5-ethyl-2-fluoro-3-hydroxyphenyl)-1-methylsulfanylethylidene}carbamic acid methyl ester (542 mg) and DMF (21.6 mL) there were added potassium carbonate (257 mg) and 2-dimethylaminoethyl chloride hydrochloride (268 mg) at 0° C. in that order, under a nitrogen atmosphere. The mixture was stirred for 4 hours at 0° C., and then potassium carbonate (257 mg) and 2-dimethylaminoethyl chloride hydrochloride (268 mg) were again added in that order, stirring was continued for 4 hours at 0° C., and potassium carbonate (257 mg) and 2-dimethylaminoethyl chloride hydrochloride (268 mg) were added. The mixture was stirred overnight at room temperature, and then ethyl acetate (200 mL) and water (100 mL) were added. The mixture was sufficiently shaken, and then the organic layer was separated off, washed twice with water (100 mL) and once with saturated aqueous sodium chloride (100 mL) in that order, and dried over anhydrous magnesium sulfate. The mixture was filtered to obtain a filtrate, and the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate system) to obtain the target compound (242 mg) as a colorless solid.

reactant | {2-[4-bromo-3-(t-butoxycarbonylaminomethyl)phenylimino]-2-(5-ethyl-2-fluoro-3-hydroxyphenyl)-1-methylsulfanylethylidene}carbamic acid methyl ester | 542 mg | COC(N=C(C(C1=C(C(=CC(=C1)CC)O)F)=NC1=CC(=C(C=C1)Br)CNC(=O)OC(C)(C)C)SC)=O | C25H29BrFN3O5S
reactant | DMF | 21.6 mL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 257 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 268 mg | Cl.CN(CCCl)C
reactant | potassium carbonate | 257 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 268 mg | Cl.CN(CCCl)C
reactant | potassium carbonate | 257 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 268 mg | Cl.CN(CCCl)C
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | {2-[4-Bromo-3-(t-butoxycarbonylaminomethyl)phenylimino]-2-[3-(2-dimethylaminoethoxy)-5-ethyl-2-fluorophenyl]-1-methylsulfanylethylidene}carbamic Acid Methyl Ester | 242 mg | COC(N=C(C(C1=C(C(=CC(=C1)CC)OCCN(C)C)F)=NC1=CC(=C(C=C1)Br)CNC(=O)OC(C)(C)C)SC)=O | C29H38BrFN4O5S
